US08486970B2
To a mixed liquid of 269 mg of (3RS,4RS)-2-[(1SR,2SR)-2-aminocyclohexyl]-N-(benzyloxy)-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide and 5 ml of DMF were added 58 mg of sodium carbonate and 119 mg of methyl ethanimidothioate hydrochloride, followed by stirring at 60° C. for 1 hour. Thereafter, while stirring at 60° C., 233 mg of sodium carbonate and 478 mg of methyl ethanimidothioate hydrochloride were further added in four divided portions every 1 hour. After cooling the reaction solution, water was added thereto, followed by extraction with chloroform-isopropyl alcohol (5:1). The organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol-aqueous ammonia) and then crystallized with ethyl acetate to obtain 113 mg of (3RS,4RS)—N-(benzyloxy)-3-(2,4-dichlorophenyl)-2-[(1SR,2SR)-2-(ethanimidoylamino)cyclohexyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a white crystal.

reactant | (3RS,4RS)-2-[(1SR,2SR)-2-aminocyclohexyl]-N-(benzyloxy)-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 269 mg | NC1C(CCCC1)N1C(C2=CC=CC=C2C(C1C1=C(C=C(C=C1)Cl)Cl)C(=O)NOCC1=CC=CC=C1)=O | C29H29Cl2N3O3
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | sodium carbonate | 58 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl ethanimidothioate hydrochloride | 119 mg | Cl.C(C)(=N)SC
reactant | sodium carbonate | 233 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl ethanimidothioate hydrochloride | 478 mg | Cl.C(C)(=N)SC
solvent | water | O | H2O
product | (3RS,4RS)—N-(benzyloxy)-3-(2,4-dichlorophenyl)-2-[(1SR,2SR)-2-(ethanimidoylamino)cyclohexyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 113 mg | C(C1=CC=CC=C1)ONC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NC(C)=N)C1=C(C=C(C=C1)Cl)Cl | C31H32Cl2N4O3
